US08609644B2
Following the procedure described for the preparation of 3,3:17,17-bis(ethylendioxy)-6β-hydroxymethylandrostane (Prepn. 9) and starting from 17,17-(ethylendioxy)-3-methylenandrostane-5α-ol, 17,17-(ethylendioxy)-3α-hydroxymethylandrostane-5α-ol was obtained in 98% yield. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 4.44 (t, 1H), 3.81 (s, 1H), 3.76 (m, 4H), 3.58 (m, 1H), 3.39 (m, 1H), 1.91-0.97 (m, 22H), 0.87 (s, 3H), 0.74 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-6β-hydroxymethylandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@H](C3CCCC[C@]3(C)[C@H]1CC4)CO | C24H38O5
reactant | 17,17-(ethylendioxy)-3-methylenandrostane-5α-ol | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC[C@]4(CC(CC[C@]4(C)[C@H]2CC3)=C)O)OC1 | C22H34O3
product | 17,17-(ethylendioxy)-3α-hydroxymethylandrostane-5α-ol | 98% yield | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC[C@]4(C[C@@H](CC[C@]4(C)[C@H]2CC3)CO)O)OC1 | C22H36O4
